US06376505B1
C. Preparation of 2,3-ethylenedioxybenzoic acid
Into a 500 ml round bottom flask fitted with a 250 ml addition funnel and a magnetic stir bar were placed 2,3-ethylenedioxybenzaldehyde (4.07 g, 24.7 mmol) and 100 ml of water. The mixture was heated to 80° and potassium permanganate (7.84 g, 49.6 mmol) in 150 ml of water was added dropwise via the addition funnel over 20 minutes. After the addition was complete the mixture was allowed to stir at 80° for 1.5 hours. The mixture was made basic with a 10% potassium hydroxide solution and the solids filtered. The filter cake was washed with hot water. The filtrate was extracted with ether, made acidic, then extracted with ethyl acetate. The organics were dried over sodium sulfate, filtered, and concentrated to give 2.96 g of subtitled product (66%) which was used directly in the next step.

reactant | 2,3-ethylenedioxybenzaldehyde | 24.7 mmol, 4.07 g | C1OC2=C(C=O)C=CC=C2OC1 | C9H8O3
reactant | potassium permanganate | 49.6 mmol, 7.84 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | 150 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2,3-ethylenedioxybenzoic acid | 2.96 g, 66% | C1OC2=C(C(=O)O)C=CC=C2OC1 | C9H8O4
